US06875765B2
Benzimidazole (950 mg, 8.0 mmol) in THF was added to tert-butanol (20 mL) and THF (2.5 mL) containing potassium tert-butoxide (900 mg, 8.0 mmol). 2R,3R-butene oxide (500 mg, ˜1 equiv) was added. The reaction was heated in a sealed tube at 60° C. for 2 days. After cooling to room temperature, the reaction was poured into water, extracted with ethyl acetate, washed with 1.0N sodium hydroxide, then brine. To give (1R,2S)-2-benzimidazol-1-yl-1-methyl-propanol 1.27 g (84%) as a yellow oil. MS (APCI) m/z 191.2 (M+1).

reactant | Benzimidazole | 8.0 mmol, 950 mg | N1=CNC2=C1C=CC=C2 | C7H6N2
reactant | tert-butanol | 20 mL | C(C)(C)(C)O | C4H10O
reactant | potassium tert-butoxide | 8.0 mmol, 900 mg | CC(C)([O-])C.[K+]
reactant | water | O | H2O
solvent | THF | C1CCOC1 | C4H8O
solvent | THF | 2.5 mL | C1CCOC1 | C4H8O
product | (1R,2S)-2-benzimidazol-1-yl-1-methyl-propanol | 1.27 g, 84% | N1(C=NC2=C1C=CC=C2)[C@H]([C@H](O)C)C | C11H14N2O
